US07399759B2
2-(Trimethylsilyl)ethyl 2,2-dimethyl-3-hydroxy-3-(4-pyridyl)propionate
1.6 M n-butyl lithium in hexane (14.0 ml, 22.4 mmol) was added to a solution of diisopropylamine (2.3 g, 22.4 mmol) in tetrahydrofuran (15 ml) under ice cooling condition, and the mixture was stirred for 30 minutes. The reaction mixture was cooled to −78° C., and a solution of 2-(trimethylsilyl)ethyl isobutyrate (4.0 g, 21.2 mmol) in tetrahydrofuran (5 ml) was added dropwise to the mixture. The reaction mixture was stirred for 45 minutes. Successively, a solution of 4-pyridinecarbaldehyde (2.5 g, 23.3 mmol) in tetrahydrofuran (10 ml) was added to the mixture, and the mixture was stirred with warming from −78° C. to room temperature for 2.5 hrs. The reaction mixture was combined with saturated aqueous ammonium chloride solution and extracted with ethylacetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated, and the residue was subjected to a silica gel (100 g) column chromatography. The fraction eluted with hexane-ethyl acetate (3:1, v/v) were collected and concentrated to give the titled compound (3.2 g, 51%) as a colorless oil.

reactant | n-butyl lithium | 1.6 M | C(CCC)[Li]
reactant | hexane | 22.4 mmol, 14.0 ml | CCCCCC | C6H14
reactant | diisopropylamine | 22.4 mmol, 2.3 g | C(C)(C)NC(C)C | C6H15N
reactant | 2-(trimethylsilyl)ethyl isobutyrate | 21.2 mmol, 4.0 g | C(C(C)C)(=O)OCC[Si](C)(C)C | C9H20O2Si
reactant | 4-pyridinecarbaldehyde | 23.3 mmol, 2.5 g | N1=CC=C(C=C1)C=O | C6H5NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-(Trimethylsilyl)ethyl 2,2-dimethyl-3-hydroxy-3-(4-pyridyl)propionate | 3.2 g, 51% | CC(C(=O)OCC[Si](C)(C)C)(C(C1=CC=NC=C1)O)C | C15H25NO3Si
